US07884210B2
2-{2-[3-Cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-5-ylsulfanyl}-2-methyl-propionic acid
The title compound was prepared via 2-{2-[3-cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-5-ylsulfanyl}-2-methyl-propionic acid ethyl ester in a similar manner as described for the synthesis of {2-[3-cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-4-yl}-acetic acid, using 3,4-difluoroaniline, cyclopentanecarbaldehyde and 2-(2-amino-thiazol-5-ylsulfanyl)-2-methyl-propionic acid ethyl ester.

reactant | 2-{2-[3-cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-5-ylsulfanyl}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)SC1=CN=C(S1)NC(=O)N(C1=CC(=C(C=C1)F)F)CC1CCCC1)=O | C22H27F2N3O3S2
reactant | {2-[3-cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-4-yl}-acetic acid | C1(CCCC1)CN(C(NC=1SC=C(N1)CC(=O)O)=O)C1=CC(=C(C=C1)F)F | C18H19F2N3O3S
reactant | 3,4-difluoroaniline | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | cyclopentanecarbaldehyde | C1(CCCC1)C=O | C6H10O
reactant | 2-(2-amino-thiazol-5-ylsulfanyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)SC1=CN=C(S1)N)=O | C9H14N2O2S2
product | 2-{2-[3-Cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-5-ylsulfanyl}-2-methyl-propionic acid | C1(CCCC1)CN(C(NC=1SC(=CN1)SC(C(=O)O)(C)C)=O)C1=CC(=C(C=C1)F)F | C20H23F2N3O3S2
